US07531532B2
2-Amino-4-(4-amino-2-fluorophenoxy)pyridine
2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridine (1.246 g) was dissolved in methanol (20 ml)-tetrahydrofuran (10 ml), and then 10% palladium carbon (1.0 g) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring for 6 days. After replacing with nitrogen inside the system, the catalyst was filtered and washed with ethanol. The filtrate was concentrated under a reduced pressure to provide the titled compound (1.182 g, quantitative) as brown crystals.

reactant | 2-Amino-4-(2-fluoro-4-nitrophenoxy)pyridine | 1.246 g | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C11H8FN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | 2-Amino-4-(4-amino-2-fluorophenoxy)pyridine | 1.182 g | NC1=NC=CC(=C1)OC1=C(C=C(C=C1)N)F | C11H10FN3O
